US05270324
3,3-dimethyl-δ-valerolactone was treated with HI in HOAc, followed by diazomethane to give methyl 3,3-dimethyl-5-iodo-pentanoate. This material and the aldehyde from U.S. Pat. No. 4,851,409, Example 24, Step 1 were assembled using Method L. The thiol was from Example 80, Step 4. This compound showed signals at m/e 548 (M+I) and 570 (M+Na) in a fast atom bombardment mass spectrometer (FAB-MS).

reactant | 3,3-dimethyl-δ-valerolactone | CC1(CC(=O)OCC1)C | C7H12O2
reactant | HI | I | HI
reactant | diazomethane | [N+](=[N-])=C | CH2N2
solvent | HOAc | CC(=O)O | C2H4O2
product | methyl 3,3-dimethyl-5-iodo-pentanoate | CC(CC(=O)OC)(CCI)C | C8H15IO2
